Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bladder stones, BPH, LUTS
 
Major Surgical or Invasive Procedure:
Robot-assisted laparoscopic simple prostatectomy, bladder stone 
removal 

 
History of Present Illness:
___ w/ BPH/LUTS, bladder stones
 
Past Medical History:
HTN
BPH/LUTS
Bladder stones
 
Social History:
___
Family History:
Noted in ___
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
Drain has been removed. 
Foley in place, secured to medial-anterior thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 07:03AM BLOOD WBC-5.3 RBC-4.00* Hgb-12.0* Hct-36.1* 
MCV-90 MCH-30.0 MCHC-33.2 RDW-15.8* RDWSD-52.5* Plt ___
___ 07:03AM BLOOD Glucose-94 UreaN-19 Creat-0.8 Na-141 
K-4.1 Cl-104 HCO3-25 AnGap-12
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robot-assisted laparoscopic simple prostatectomy. and 
robot-assisted laparoscopic removal of bladder stone. No 
concerning intra-operative events occurred; please see dictated 
operative note for full details.  The patient received 
___ antibiotic prophylaxis and continous bladder 
irrigation (CBI) overnight.  At the end of the procedure the 
patient was extubated and transported to the PACU for further 
recovery before being transferred to the floor.  He was 
transferred from the PACU in stable condition. On POD0, pain was 
well controlled on PCA, hydrated with intravenous fluids for 
urine output >30cc/hour, provided with pneumoboots and incentive 
spirometry for prophylaxis, and he ambulated once. On POD1, the 
patient was restarted on appropriate home medications, basic 
metabolic panel and complete blood count were checked, pain 
control was transitioned from PCA to oral analgesics, diet was 
advanced to a clears/toast and crackers diet for breakfast and 
lunch. CBI was discontinued. Diet was advanced to regular after 
lunch and with further ambulation, the drain was removed.  Foley 
catheter care and leg bag teaching was provided by nursing. The 
remainder of the hospital course was unremarkable. The patient 
was discharged in stable condition, eating well, ambulating 
independently, and with pain control on oral analgesics. On 
exam, incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in one week for post-operative 
evaluation and trial of voiding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
5. Aspirin 81 mg PO DAILY 
6. Ibuprofen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN pain, fever>100  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Doses 
take 7am and 7pm on date of void trial, foley removal 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*20 
Tablet Refills:*0 
6.  Oxybutynin 5 mg PO TID:PRN bladder spasms 
RX *oxybutynin chloride 5 mg ONE tablet(s) by mouth Q8hrs Disp 
#*10 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*5 Tablet 
Refills:*0 
8.  Aspirin 81 mg PO DAILY  
9.  Finasteride 5 mg PO DAILY  
10.  Lisinopril 5 mg PO DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 BENIGN PROSTATIC HYPERPLASIA W/ LOWER URINARY TRACT SYMPTOMS 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen.  Add the 
prescribed narcotic (examples: Oxycodone, Dilaudid, 
Hydromorphone) for break through pain that is >4 on the pain 
scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is about 3 grams 
(from ALL sources) PER DAY.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up. Generally about 
FOUR weeks. Light household chores are generally “ok”.  Do not 
vacuum. 

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener ___ a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up for wound check and Foley removal. DO NOT allow 
anyone that is outside of the urology team remove your Foley for 
any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed
 
Followup Instructions:
___